US08377924B2
4-Amino-1,2,2,6,6-pentamethylpiperidine (1 g) and 2,6-dichloro-5-fluoropyrimidine (1.5 g) were dissolved in methanol (10 mL). The reaction solution was stirred at rt overnight. The reaction solution was evaporated and crystallized from ethyl acetate and hexanes to give 2-chloro-5-fluoro-N4-(1,2,2,6,6-pentamethylpiperidin-4-yl)-4-pyrimidineamine HCl salt (1.65 g, 93%). 1H NMR (DMSO-d6): δ 1.38 (s, 6H), 1.48 (s, 6H), 2.02 (m, 4H), 2.68 (d, J=4.8 Hz, 3H), 4.33 (br, 1H), 8.10 (d, J=3.3 Hz, 1H), 8.32 (d, J=6.9 Hz, 1H), 9.66 (br, 1H).

reactant | 4-Amino-1,2,2,6,6-pentamethylpiperidine | 1 g | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | 2,6-dichloro-5-fluoropyrimidine | 1.5 g | ClC1=NC(=C(C=N1)F)Cl | C4HCl2FN2
solvent | methanol | 10 mL | CO | CH4O
product | 2-chloro-5-fluoro-N4-(1,2,2,6,6-pentamethylpiperidin-4-yl)-4-pyrimidineamine HCl salt | 1.65 g, 93% | Cl.ClC1=NC=C(C(=N1)NC1CC(N(C(C1)(C)C)C)(C)C)F | InChI=1S/C14H22ClFN4.ClH/c1-13(2)6-9(7-14(3,4)20(13)5)18-11-10(16)8-17-12(15)19-11;/h8-9H,6-7H2,1-5H3,(H,17,18,19);1H
